US04871735
3-[N-Methyl-N-((6-methoxy-naphth-2-yl)-eth-2-yl)-amino-prop-3-yl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
A mixture of 0.66 g (2.5 mmol) of 2-(2-bromoethyl)-6-methoxy-naphthalene and 1.46 g (5 mmol) of 3-(N-methyl-amino-prop-3-yl)-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one is heated to 100° C. for 90 minutes. After cooling, the crude product is purified over 70 g of aluminium oxide (neutral, activity II-III) with methylene chloride and then with increasing amounts of ethanol (up to 0.25%).

reactant | 2-(2-bromoethyl)-6-methoxy-naphthalene | 2.5 mmol, 0.66 g | BrCCC1=CC2=CC=C(C=C2C=C1)OC | C13H13BrO
reactant | 3-(N-methyl-amino-prop-3-yl)-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 5 mmol, 1.46 g | CNC(CC)N1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C16H24N2O3
product | 3-[N-Methyl-N-((6-methoxy-naphth-2-yl)-eth-2-yl)-amino-prop-3-yl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | CN(C(C)C1=CC2=CC=C(C=C2C=C1)OC)C(CC)N1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C29H36N2O4
